### PR TITLE
More progress on state-change proofs

### PR DESCRIPTION
**Pull request by jadephilipoom**
Just a few lemmas left for `reassign_pointer_represents`, the main proof about changing attributes of memory in concrete/abstract states, to be fully proven with no admits!

Most of the code here is proving the correspondence between `page_lookup`, the specification of how page tables work, and `index_sequences_to_pointer`, which finds all paths to a subtable within a table.

### CODE REVIEW

File: coq-verification/src/Concrete/PointerLocations.v [hunk 1]
```diff
@@ -34,6 +34,8 @@ Section PointerLocations.
   (* We haven't formalized anywhere that pointers don't repeat, so we return a
```
Comment (hkim15) [inline coq-verification/src/Concrete/PointerLocations.v:34]: You mean don't repeat within the page table?

File: coq-verification/src/Concrete/PointerLocations.v [hunk 2]
```diff
@@ -48,11 +50,11 @@ Section PointerLocations.
           (fun index =>
              match get_entry ptable index with
              | Some pte =>
-               if arch_mm_pte_is_table pte level
+               if arch_mm_pte_is_table pte level'
```
Comment (hkim15) [inline coq-verification/src/Concrete/PointerLocations.v:53]: Maybe level' => positive_level to make the code more readable?

File: coq-verification/src/Concrete/PointerLocations.v [hunk 3]
```diff
@@ -155,10 +157,140 @@ Section PointerLocations.
...
              | _ => apply in_or_app
-             | _ => left; apply in_map;
-                      solve [auto using index_sequences_to_pointer''_root]
+             | _ => left; apply in_map, index_sequences_to_pointer''_root; solver
              | _ => right; apply IHroot_list; solver
              | _ => solver
              end.
   Qed.
+
+  Lemma nth_error_index_sequences_root' root_ptrs stage ptr :
```
Comment (hkim15) [inline coq-verification/src/Concrete/PointerLocations.v:167]: Maybe some comment here what this lemma tries to prove in English?

File: coq-verification/src/Concrete/PointerLocations.v [hunk 4]
```diff
@@ -155,10 +157,140 @@ Section PointerLocations.
...
+  Proof.
+    induction root_ptrs; [ intros *; rewrite nth_error_nil; solver | ].
+    destruct i; cbn [nth_error index_sequences_to_pointer']; basics.
+    { apply in_or_app; left. rewrite Nat.add_0_r. apply in_map.
+      apply index_sequences_to_pointer''_root; solver. }
+    { apply in_or_app; right. rewrite <-Nat.add_succ_comm.
+      solver. }
+  Qed.
+
+  Lemma nth_error_index_sequences_root root_ptable i stage ptr :
```
Comment (hkim15) [inline coq-verification/src/Concrete/PointerLocations.v:184]: The same: maybe some comment here?

**Review by hkim15 — APPROVED** [review]
Good progress!!! Approve.d Thanks!!!

File: coq-verification/src/Concrete/PointerLocations.v (hunk 1 above)
Comment (jadephilipoom) [reply coq-verification/src/Concrete/PointerLocations.v:34]: Yes -- I don't want to have to prove every time I call this function that I don't have multiple paths to a single pointer, so the function is returning "all paths" and I'll later prove that it's only one. (This second step has already been done in some proofs -- it comes from `has_location` and `locations_exclusive`.)

File: coq-verification/src/Concrete/PointerLocations.v (hunk 2 above)
Comment (jadephilipoom) [reply coq-verification/src/Concrete/PointerLocations.v:53]: What do you mean by positive_level? In this case, `level'` is just `level - 1`. (I tend to, as my own convention, use the `'` notation to indicate the new values of inductive variables in recursive calls; `level'` means "the next value of `level`".)
